US08802713B2
Then, 0.43 g of 5-formyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole was dissolved in 15 mL of methanol, and 110 mg of sodium acetate and 90 mg of hydroxylammonium chloride were added, followed by stirring under reflux with heating for 2 hours. Then, the solvent was distilled off under reduced pressure, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:3) to obtain 0.29g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(hydroxyimino)methylene-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole (1H-NMR (CDCL3/TMS δ (ppm) value) 6: (majar) 2.55 (3H, s), 3.38 (2H, q), 6.05 (1H, dt), 6.54 (1H, s), 7.15 (1H, d), 7.61 (1H, d), 7.71 (1H, brs), 7.83 (1H, d)).

reactant | 5-formyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 0.43 g | C(=O)C1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(OC(F)(F)F)F)(F)F | C16H10F10N2O3S
reactant | sodium acetate | 110 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylammonium chloride | 90 mg | [Cl-].O[NH3+]
reactant | methanol | 15 mL | CO | CH4O
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(hydroxyimino)methylene-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 0.29g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C(C1=NO)=C)OC(C(OC(F)(F)F)F)(F)F | C16H11F10N3O3S
